US08912210B2
Step A: Methyl 2-[(tert-butoxycarbonyl)amino]-4-cyano-4-(2,3-difluorophenyl)butanoate
To a solution of (2,3-difluorophenyl)acetonitrile (18.6 g, 122 mmol) in N,N-dimethylformamide (243 mL) at 0° C. was added sodium hydride (60% dispersion in mineral oil) (4.37 g, 109 mmol). After 20 min, methyl N-(tert-butoxycarbonyl)-3-iodo-D-alaninate (20.0 g, 60.8 mmol) was added, and the resulting mixture stirred 50 min. Saturated aqueous sodium bicarbonate was added, and the mixture was warmed to ambient temperature. Water was added and the mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with water (3×), brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% hexanes→20% hexanes/ethyl acetate) gave the title compound. MS: m/z=377.3 (M+Na).

reactant | (2,3-difluorophenyl)acetonitrile | 122 mmol, 18.6 g | FC1=C(C=CC=C1F)CC#N | C8H5F2N
reactant | sodium hydride | 109 mmol, 4.37 g | [H-].[Na+]
reactant | methyl N-(tert-butoxycarbonyl)-3-iodo-D-alaninate | 60.8 mmol, 20.0 g | C(C)(C)(C)OC(=O)N[C@H](CI)C(=O)OC | C9H16INO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 243 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | Methyl 2-[(tert-butoxycarbonyl)amino]-4-cyano-4-(2,3-difluorophenyl)butanoate | C(C)(C)(C)OC(=O)NC(C(=O)OC)CC(C1=C(C(=CC=C1)F)F)C#N | C17H20F2N2O4
